US04093736
(d) 4-[6-(2-Methoxy-4-chlorophenyl)-5-hexenyl]-3,5-heptanedione
was prepared from 84 g. of 6-(2-methoxy-4-chlorophenyl)-5-hexenyl iodide and lithium 3,5-heptanedione (from 42 g. of 3,5-heptanedione and 2.6 g. of lithium hydride in 400 ml. of dimethylformamide). The product was chromatographed on silica gel and eluted with ethyl acetate-hexane 1:4 to give 56 g. of oil used directly in the next reaction without further purification.

reactant | 6-(2-methoxy-4-chlorophenyl)-5-hexenyl iodide | COC1=C(C=CC(=C1)Cl)C=CCCCCI | C13H16ClIO
reactant | lithium 3,5-heptanedione | 400 ml, 42 g | CCC(CC(CC)=O)=O.[Li]
product | 4-[6-(2-Methoxy-4-chlorophenyl)-5-hexenyl]-3,5-heptanedione | COC1=C(C=CC(=C1)Cl)C=CCCCCC(C(CC)=O)C(CC)=O | C20H27ClO3
